US07173056B2
(S)-1-(2,3,7,8-Tetrahydrofuro[2,3-g]indol-1-yl)-2-Propylamine Fumarate
2,3-Dihydrobenzo[b]furan-5-carboxaldehyde and 2,3-dihydrobenzo[b]furan-7-carboxaldehyde To a stirred solution of 2,3-dihydrobenzo[b]furan (9.4 mL, 83.4 mmol) in dichloromethane (250 mL) under Ar at −5° C. was added dropwise titanium(IV) chloride (18 mL, 167.0 mmol) over 15 min, maintaining the temperature below 0° C. After addition was complete, the red-brown reaction mixture was allowed to stir for a further 10 min before α,α-dichloromethyl methyl ether (8.3 mL, 91.6 mmol) was added dropwise [CAUTION—exotherm] maintaining the temperature below 0° C. Upon complete addition, the vivid crimson reaction mixture was allowed to warm to ambient temperature over 2 h, and was then cautiously poured onto a saturated aqueous solution of sodium bicarbonate (700 mL). The mixture was filtered through a pad of Kieselguhr, which was washed through with dichloromethane. The phases were separated and the aqueous phase was extracted with dichloromethane (2×400 mL). The combines organic fractions were washed with brine (300 mL), dried (magnesium sulfate) and concentrated in vacuo to afford a mixture [5-CHO:7-CHO (4:1)] of aldehyde products (11.48 g, 93%) as a green-black liquid which was used without further purification. Methyl 2-azido-3-(2,3-dihydrobenzo[b]furan-5-yl)propenate and methyl 2-azido-3-(2,3-dihydrobenzo[b]furan-7-yl)propenate To a stirred solution of potassium tert-butoxide (31.0 g, 0.26 mol) in anhydrous methanol (220 mL) under Ar at −13° C. was added dropwise a mixture of methyl azidoacetate (31.7 g, 0.27 mol), and 2,3-dihydrobenzo[b]furan-5-furan-5-carboxalidehyde and 2,3-dihydrobenzo[b]furan-7-carboxaldehyde (4:1 mixture; 10.15 g, 69 mmol) over 40 min. After complete addition, the reaction mixture was stirred at −10° C. for 1 h, then stored at 0° C. overnight (with a vent needle in place). The reaction mixture was partitioned between ethyl acetate (750 mL) and water (1 L) and the aqueous phase was extracted with ethyl acetate (2×300 mL). The combined organic fractions was washed with brine (300 mL), dried (magnesium sulfate) and concentrated in vacuo to afford a crude oil. Purification by flash column chromatography [SiO2: dichloromethane-heptane (1:1)] afforded a mixture [5-substituted:7-substituted (4:1)] of products (11.4 g, 68%) as a pale yellow solid which was used without further purification. Methyl 7,8-dihydrofuro[2,3-g]indole-2-carboxylate, methyl 5,6-dihydrofuro[3,2-f]indole-2-carboxylate and methyl 5,6-dihydrofuro[2,3-e]indole-2-carboxylate To stirred xylenes (800 mL) under Ar at reflux was added dropwise a solution of methyl 2-azido-3-(2,3-dihydrobenzo[b]furan-5-yl)propenate and methyl 2-azido-3-(2,3-dihydrobenzo[b]furan-7-yl)propenate (4:1 mixture; 11.4 g, 56.5 mmol) in xylenes (300 mL) over 3.5 h. After complete addition, the mixture was heated at reflux for a further 30 min, followed by removal of xylenes (750 mL) by distillation. The residual solution was allowed to cool, with stirring, to ambient temperature overnight. The resultant precipitate was filtered and washed with cold xylenes to afford a mixture [(2,3-g):(3,2-f)—1:1] of products (5.90 g, 59%) as a white solid which was used without further purification. The filtrate was concentrated in vacuo and the residue was recrystallised from hot xylenes (100 mL) to afford a mixture [(2,3-g):(3,2-f):(2,3-e)—12:48:40] of products (2.23 g, 22%) as a pale yellow solid. 7,8-Dihydrofuro[2,3-g]indole-2-carboxylic acid and 5,6-dihydrofuro[3,2-f]indole-2-carboxylic acid To a stirred suspension of methyl 7,8-dihydrofuro[2,3-g]indole-2-carboxylate and methyl 5,6-dihydrofuro[3,2-f]indole-2-carboxylate (1:1) (5.85 g, 26.9 mmol) in water (140 mL) was added potassium hydroxide (85%; 3.55 g, 53.8 mmol) and the mixture was heated at reflux for 3.75 h, then allowed to cool to ambient temperature. Hydrochloric acid (2.5N aqueous; 29 mL) was added and the resultant precipitate was filtered and washed with water to afford a mixture [(2,3-g):(3,2-f) 1:1] of products (5.47 g, 100%) as an off-white solid which was used without further purification. 7,8-Dihydrofuro[2,3-g]indole and 5,6-dihydrofuro[3,2-f]indole A stirred solution of 7,8-dihydrofuro[2,3-g]indole-2-carboxylic acid and 5,6-dihydrofuro[3,2-f]indole-2-carboxylic acid (1:1) (5.46 g, 26.9 mmol) in phenyl ether (250 mL) was heated at reflux for 45 min, then allowed to cool to ambient temperature. Heptane (500 mL) was added and the mixture was passed through a heptane-packed SiO2 column under pressure. The column was eluted with heptane (1.5 L), then heptane-dichloromethane (1:1, 1 L) and finally dichloromethane to afford 7,8-dihydrofuro[2,3-g]indole (230 mg, 5.4%) as a white solid. IR vmax (Nujol)/cm−1 3382, 2925, 2854, 1644, 1618, 1497, 1463, 1441, 1435, 1368, 1326, 1234, 1140, 1021, 970, 793, 719, 622, 533 and 475; NMR (400 MHz, CDCl3) δH 3.31 (2H, t, J 8.5 Hz), 4.66 (2H, t, J 8.5 Hz), 6.51 (1H, dd, J 2, 3.5 Hz), 6.73 (1H, d, J 8 Hz), 7.06 (1H, dd, J 2, 3.5 Hz), 7.39 (1H, d, J 8.5 Hz) and 7.83 (1H, brs). Also collected were 5,6-dihydrofuro[3,2-f]indole (667 mg, 15.6%) and mixed fractions (2.94 g, 68.7%). The mixed isomers were further separated by flash column chromatography [SiO2; ethyl acetate-heptane (1:3)] to afford afford 7,8-dihydrofuro[2,3-g]indole (408 mg, 9.5%) as a white solid and 5,6-dihydrofuro[3,2-f]indole (690 mg, 16%). (S)-1-[2-(tert-Butoxycarbonylamino)propyl]-7,8-dihydrofuro[2,3-g]indole To a stirred solution of 7,8-dihydrofuro[2,3-g]indole (392 mg, 2.46 mmol) in dimethyl sulfoxide under Ar at 38° C. (external temperature) was added powered potassium hydroxide (85%; 650 mg, 9.85 mmol) and the resultant suspension was stirred for 1 h. A solution of (S)-2-(tert-butoxycarbonylamino)propane methanesulfonate (1.50 g, 5.9 mmol) was added dropwise over 45 min, and the mixture was stirred for 4 days. After this time, the reaction was quenched by pouring onto ice-water (100 mL), the resultant suspension was filtered and the solid was washed with ice-cold water to afford the produce (580 mg, 74%) as a pale pink solid. Rf 0.25 [Ethyl acetate-heptane (3:7)]; IR vmax (Nujol)/cm−1 3360, 2925, 2854, 1687, 1516, 1460, 1366, 1341, 1299, 1233, 1224, 1173, 1079, 969, 794, 712 and 608; NMR (400 MHz, CDCl3) δH 1.09 (3H, d, J 6.5 Hz), 1.39 (9H, s), 3.52 (1H, m), 3.59 (1H, m), 3.99 (2H, m), 4.27 (1H, m), 4.63 (2H, t, J 9 Hz), 6.42 (1H, d, J 3.5 Hz), 6.68 (J, d, J 8.5 Hz), 6.89 (1H, d, J 3.5 Hz) and 7.33 (1H, d, J 8.5 Hz). (S)-1-[2-(tert-Butoxycarbonylamino)propyl]-2,3,7,8-tetrahydrofuro[2,3-g]indole To a stirred solution/suspension of (S)-1-[2-(tert-butoxycarbonylamino)propyl]-7,8-dihydrofuro[2,3-g]indole (565 mg, 1.79 mmol) in acetic acid (40 mL) under Ar at 5° C. was added sodium cyanoborohydride (371 mg, 590 mmol) and the mixture was allowed to warm to ambient temperature and stir overnight. The resultant solution was poured onto ice-water (100 mL), basified (˜pH 8–9) by the addition of 30% ammonium hydroxide, and the resultant suspension was filtered and the solid washed with ice-cold water. The crude solid was purified by flash column chromatography [SiO2; ethyl acetate-heptane (3:7)] to afford the product (412 mg, 72%) as a white solid: mp 141–142.5° C.; Found: C, 67.87; H, 8.21; N, 8.80%. C18H26N2O3 requires: C, 67.90; H, 8.23; N, 8.79%. (S)-1-(2,3,7,8-Tetrahydrofuro[2,3-g]indol-1-yl)-2-propylamine fumarate To a stirred solution/suspension of (S)-1-[2-(tert-botoxycarbonylamino)propyl]-2,3,7,8-tetrahydrofuro[2,3-g]indole (392 mg, 1.23 mmol) in methanol (25 mL) was added conc. hydrochloric acid (0.37 mL) and the mixture was heated at reflux for 1.5 h, then allowed to cool to ambient temperature. The solvent was removed in vacuo and the residue was triturated with ether and a small amount of acetone, filtered, and washed with ether to afford the product (366 mg, 100%) as the bis-hydrochloride salt. 326 mg of this salt was partitioned between ether and aqueous sodium hydroxide solution, and the aqueous phase was extracted with ether. The combined organic fractions were dried (magnesium sulfate) and concentrated in vacuo to afford the free amine as a pale yellow oil (216 mg). A solution of the above oil in hot 2-propanol (0.5 mL) was added to a stirred solution of fumaric acid (127 mg, 1.09 mmol) in hot 2-propanol (2 mL), and the resultant suspension was allowed to cool to ambient temperature and was then cooled to 0° C. The solid was filtered and washed with ice-cold 2-propanol, followed by ether to afford the product (279 mg, 76%) as a white solid: mp. 215.5–217° C. (dec.); Found: C, 60.98; H, 6.78; N, 8.26%. C13H18N2O.C4H4O4 requires: C, 61.07; H, 6.63; N, 8.37%. Alternatively Example 3 may be synthesised using the following procedure. 2-(2′-Hydroxyethyl)-3-methoxy-N-tert-butoxycarbonyl-aniline A stirred solution of N-tert-butoxycarbonyl-anisidine (431 g, 1.93 mol) in ether (2 L) under an argon atmosphere was cooled to −20° C. A solution of tert-butyllithium (1.7 M, hexanes, 2.5 L, 4.25 mol) was added dropwise and the reaction was stirred for 3 h at −20° C. The reaction was cooled to −50° C. and ethylene oxide (136 g, 3.09 mol) was added dropwise. The reaction was warmed to 0° C. over 1 h and then stirred at room temperature for 1 h. The reaction was poured onto saturated aqueous ammonium chloride solution (2.5 L) and the mixture was extracted with ether (3×2.5 L). The organic extracts were combined and concentrated in vacuo to afford a pale yellow oil which was purified by column chromatography [SiO2; heptane—ethyl acetate (5:1)] to afford the title compound (176 g, 37%) as a yellow crystalline solid; NMR (400 MHz, CDCl3) δH 1.51 (9H, br s), 2.91 (2H, t, J 6.0 Hz), 3.79 (3H, s), 3.87 (2H, q, J 5.0 Hz, 10.5 Hz), 6.64 (1H, d, J 8.0 Hz), 7.18 (1H, t, J 9.0 Hz), 7.38 (1H, m), 7.55 (1H, br s); IR vmax (Nujol)/cm−1 3407, 3212, 2955, 2854, 1721, 1592, 1508, 1476, 1438, 1370, 1267, 1234, 1162, 1047 and 773. 2,3-Dihydro-4-benzofuranamine 2-(2′-Hydroxyethyl)-3-methoxy-N-tert-butoxycarbonyl-aniline (158 g, 0.59 mol) was added portionwise to a stirred solution of hydrogen bromide in acetic acid (30%, 1.7 L) at room temperature. The reaction was then heated to reflux for 4 h. The reaction mixture was cooled to room temperature, basified to pH 14 with aqueous sodium hydroxide solution (6 N) and extracted with dichloromethane (3×2 L). The organic extracts were combined, dried (magnesium sulphate) and evaporated to give the title compound as an orange oil (78 g, 92%); NMR (400 MHz, CDCl3) δH 2.99 (2H, t, J 8.5 Hz), 3.55 (2H, br s), 4.57 (2H, t, J 8.5 Hz), 6.19 (1H, d, J 7.5 Hz), 6.25 (2H, d, J 7.5 Hz), 6.92 (1H, t, J 8.0 Hz); IR vmax (Nujol)/cm−1 2853, 2610, 1544, 1462, 1262, 1234, 986 and 761. N-[5-(2,3-Dihydrobenzo[b]furanyl)]-2-(hydroxyimino)acetamide A mixture of 2,3-dihydro-4-benzofuranamine (72.3 g, 0.54 mol), hydroxylamine hydrochloride (131.3 g, 1.8 mol), conc. hydrochloric acid (45 mL) and water (1265 mL) was stirred at room temperature for 30 min. A solution of chloral hydrate (98.2 g, 0.59 mol) in water (1265 mL) was added followed by solid sodium sulphate (767 g, 5.4 mol) and the reaction was heated to reflux for 1 h. The reaction was cooled to room temperature and the solid was collected by filtration. The solid was suspended in ethyl acetate (250 mL) and water (250 mL) and then extracted with ethyl acetate (3×250 mL). The organic extracts were combined, dried (magnesium sulphate) and concentrated in vacuo to afford the title compound (41 g, 38%) as a pale brown solid; NMR (400 MHz, DMSO-d6) δH 3.12 (2H, t, J 9.0 Hz), 4.52 (2H, t, J 8.5 Hz), 6.58 (1H, d, J 8.0 Hz), 7.06 (1H, t, J 8.5 Hz), 7.14 (1H, d, J 8.5 Hz), 7.7 (1H, s), 9.66 (1H, br s), 12.19 (1H, br s); IR vmax (Nujol/cm−1 3389, 3160, 2923, 1661, 1620, 1607, 1540, 1453, 1238, 1060, 1029, 982 and 780. 2,3,7,8-Tetrahydro-1H-furo[2,3-g]indole-2,3-dione Methanesulfonic acid (200 mL) was added to N-[5-(2,3-dihydrobenzo[b]furanyl)]-2-(hydroxyimino)acetamide (17 g, 82.5 mmol) with vigorous stirring at 0° C. The mixture was stirred at 0° C. for 1 h then poured onto ice-water (500 mL). The aqueous mixture was neutralised (ammonium hydroxide) and filtered to afford the title compound (12.4 g, 80%) as a red solid; NMR (400 MHz, DMSO-d6) δH 3.08 (2H, t, J 8.5 Hz), 4.72 (2H, t, J 8.5 Hz), 6.45 (1H, d, J 8.0 Hz), 7.37 (1H, d, J 8.0 Hz), 11.15 (1H, br s); IR vmax (Nujol)/cm−1 3225, 2925, 1752, 1709, 1642, 1605, 1490, 1448, 1377, 1357, 1243 and 1039. 7,8-Dihydro-1H-furo[2,3-g]indole A solution of 2,3,7,8-tetrahydro-1H-furo[2,3-g]indole-2,3-dione (9.05 g, 47.9 mmol) in tetrahydrofuran (100 mL) was stirred at −20° C. under an argon atmosphere. Solid sodium borohydride was added portionwise and the reaction was stirred for 20 min at −20° C. Boron trifluoride etherate (11.9 mL, 96 mmol) was added dropwise over 90 min, then the mixture was warmed to 0° C. and stirred for 1 h. The reaction was quenched with water (100 mL) and the solution was extracted with ethyl acetate (3×150 mL). The organic extracts were combined, dried (magnesium sulphate) and concentrated in vacuo to afford a yellow solid which was purified by column chromatography [SiO2; heptane-ethyl acetate (5:1)] to afford the title compound (3.2 g, 42.8%); analytical data as described above. The synthesis of Example 3 was completed as described above.

reactant | 2,3-Dihydro-4-benzofuranamine 2-(2′-Hydroxyethyl)-3-methoxy-N-tert-butoxycarbonyl-aniline | 0.59 mol, 158 g | OCCC1=C(NC(=O)OC(C)(C)C)C=CC=C1OC.O1CCC=2C1=CC=CC2N
reactant | hydrogen bromide | Br | BrH
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
reactant | acetic acid | 1.7 L | C(C)(=O)O | C2H4O2
product | (S)-1-(2,3,7,8-Tetrahydrofuro[2,3-g]indol-1-yl)-2-Propylamine Fumarate | 78 g, 92% | C(\C=C\C(=O)O)(=O)O.N1(CCC2=CC=C3C(=C12)CCO3)C[C@H](C)N | InChI=1S/C13H18N2O.C4H4O4/c1-9(14)8-15-6-4-10-2-3-12-11(13(10)15)5-7-16-12;5-3(6)1-2-4(7)8/h2-3,9H,4-8,14H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+/t9-;/m0./s1
